US09278983B2
To a mixture of N′-methyl-5-trifluoromethyl-benzene-1,2,3-triamine (1.3 g), 2-ethylsulfanylbenzoic acid (1.3 g), and pyridine (12 ml), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.4 g) and 1-hydroxybenzotriazole (86 mg) were added at room temperature. The mixture was stirred at room, temperature for 5 hours, then heated to 110° C., and stirred with heating for 8 hours. After the reaction mixture was allowed to cool to room temperature, the reaction mixture was diluted with water, and extracted with ethyl acetate. The combined organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 339 mg of 2-(2-ethylsulfanyl-phenyl)-3-methyl-6-trifluoromethyl-3H-benzimidazole-4-ylamine (hereinafter, Present Compound 336).

reactant | N′-methyl-5-trifluoromethyl-benzene-1,2,3-triamine | 1.3 g | CNC1=C(C=C(C=C1N)C(F)(F)F)N | C8H10F3N3
reactant | 2-ethylsulfanylbenzoic acid | 1.3 g | C(C)SC1=C(C(=O)O)C=CC=C1 | C9H10O2S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.4 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 86 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | water | O | H2O
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-ethylsulfanyl-phenyl)-3-methyl-6-trifluoromethyl-3H-benzimidazole-4-ylamine | 339 mg | C(C)SC1=C(C=CC=C1)C=1N(C2=C(N1)C=C(C=C2N)C(F)(F)F)C | C17H16F3N3S
